US05494886
2-Benzylthio-3-iodopyridine
A solution of 34.0 g (0.15 mol) of 2-fluoro-3-iodopyridine and 18.6 g (0.15 mol) of benzylmercaptan in 250 ml of acetonitrile is heated under reflux with 22.8 g (0.165 mol) of potassium carbonate for 8 h. The mixture is cooled, the solvent is removed on a rotary evaporator, the residue is taken up in dichloromethane and the organic phase is washed with water. After drying with sodium sulfate, evaporating and distilling the oily residue in vacuo, 37.3 g (76% of theory) of 2-benzylthio-3-iodopyridine of boiling point 150°-153° C. at 0.1 mbar are obtained.

reactant | 2-fluoro-3-iodopyridine | 0.15 mol, 34.0 g | FC1=NC=CC=C1I | C5H3FIN
reactant | benzylmercaptan | 0.15 mol, 18.6 g | C(C1=CC=CC=C1)S | C7H8S
reactant | potassium carbonate | 0.165 mol, 22.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-Benzylthio-3-iodopyridine | C(C1=CC=CC=C1)SC1=NC=CC=C1I | C12H10INS
